* Q:\Dropbox\uni\2017s\etglu\etglu2017s\lu2\Simulation2\aufgabe3_RLC.asc
V1 N001 0 AC AC
R1 N003 N002 1k
C1 N003 0 100n
L1 N001 N002 1m
;tran 0 2m 0
.ac dec 100 1 1MEG
.backanno
.end
